US04112096
A. 5,6-Dihydro-5-oxo-1-phenylpyrazolo[1,5-c]-quinazolin-2-carboxaldehyde
4.8 g (0.030 mole) of 3-diazooxindole is suspended in 350 ml of benzene and 3.9 g (0.030 mole) of phenylpropargylaldehyde added. The reaction mixture is refluxed under nitrogen for 48 hours.

reactant | 3-diazooxindole | 0.030 mole, 4.8 g | [N+](=[N-])=C1C(NC2=CC=CC=C12)=O | C8H5N3O
reactant | phenylpropargylaldehyde | 0.030 mole, 3.9 g | C1(=CC=CC=C1)C#CC=O | C9H6O
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | 5,6-Dihydro-5-oxo-1-phenylpyrazolo[1,5-c]-quinazolin-2-carboxaldehyde | O=C1NC=2C=CC=CC2C=2N1N=C(C2C2=CC=CC=C2)C=O | C17H11N3O2
